US07776855B2
To a solution of benzyl glycolate (2.0 mL, 14.1 mmol) and triethylamine (2.35 mL, 16.9 mmol) in dichloromethane (30 mL) at 0° C. was added dropwise methanesulfonyl chloride (1.20 mL, 15.1 mL). The reaction was stirred overnight, diluted with dichloromethane, washed with saturated aqueous NH4Cl, and then with saturated NaHCO3, dried with Na2SO4, and concentrated in vacuo to give 2.50 g (73%) of methanesulfonyloxy-acetic acid benzyl ester which was used in the next step without further purification.

reactant | benzyl glycolate | 14.1 mmol, 2.0 mL | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
reactant | triethylamine | 16.9 mmol, 2.35 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.20 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methanesulfonyloxy-acetic acid benzyl ester | 2.50 g, 73% | C(C1=CC=CC=C1)OC(COS(=O)(=O)C)=O | C10H12O5S
